* Z:\mnt\design.r\spice\examples\1540.asc
V1 +V 0 PWL(0 0 1 3.3)
R1 +V N001 4.32Meg
XU1 0 0 N001 N002 N002 N002 +V OUT LTC1540
R2 N001 0 3Meg
.tran 1
* Nanopower 2.9V Vcc Threshold Detector
.lib LTC.lib
.backanno
.end
